US05936075
Synthesis of NeuAcα2-6Galβ1-4GlcNH2 βSEt. Galβ1-4GlcNH2 βSEt is prepared as described above and used directly or after isolation as acceptor for a β-D-galactoside α2-6-sialyltransferase (e.g. EC 2.4.99.1) reaction with a suitable glycosyl donor such as CMP-NeuAc.

reactant | NeuAcα2-6Galβ1-4GlcNH2 | OC(=O)[C@@]1(OC[C@@H]2[C@@H]([C@@H]([C@H]([C@H](O[C@H]3[C@@H]([C@H](C(O)O[C@@H]3CO)N)O)O2)O)O)O)C[C@H](O)[C@@H](NC(=O)C)[C@@H](O1)[C@H](O)[C@H](O)CO | C23H40N2O18
reactant | β-D-galactoside | C([C@@H]1[C@@H]([C@@H]([C@H]([C@@H](O1)O)O)O)O)O | C6H12O6
reactant | CMP-NeuAc | CC(=O)N[C@@H]1[C@H](C[C@](OC1[C@@H]([C@@H](CO)O)O)(C(=O)O)OP(=O)([O-])OC[C@@H]2[C@H]([C@H]([C@@H](O2)N3C=CC(=NC3=O)N)O)O)O.[Na+]
product | Galβ1-4GlcNH2 | O([C@H]1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO)[C@H]1[C@@H]([C@H](C(O)O[C@@H]1CO)N)O | C12H23NO10
